US04032525
4-chloro-2-(3-trifluoromethyl-phenoxy)-phenylacetonitrile (oil);
The last-named intermediate is reacted with 1-methylpiperazine in the same manner as described in Example 14 to give the desired starting material, 1-[3 -chloro-7-trifluoromethyl-dibenz[b,f]oxepin-10-yl]-4-methylpiperazine, having a melting point of 170° C.

reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 1-[3 -chloro-7-trifluoromethyl-dibenz[b,f]oxepin-10-yl]-4-methylpiperazine | ClC=1C=CC2=C(OC3=C(C(=C2)N2CCN(CC2)C)C=CC(=C3)C(F)(F)F)C1 | C20H18ClF3N2O
product | 4-chloro-2-(3-trifluoromethyl-phenoxy)-phenylacetonitrile | ClC1=CC(=C(C=C1)CC#N)OC1=CC(=CC=C1)C(F)(F)F | C15H9ClF3NO
